US04098898
1-Nitro-2-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]-2-(2,2,2-trifluoroethylamino)ethylene
A solution of 2,2,2-trifluoroethylamine (4.0 g) from the hydrochloride and potassium hydroxide in methanol (45 ml) and water (5 ml) was added slowly to a suspension of 1-nitro-2-methylsulphinyl-2-methylthio ethylene (3.6 g) in methanol (150 ml) at 0°. The mixture was stirred at room temperature for 24 hours, concentrated and dissolved in chloroform. Filtration, redissolution in a small volume of chloroform and precipitation with hexane afforded an orange crystalline solid. This was dissolved in methanol (25 ml) and a solution of 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole (2.1 g) in methanol (25 ml) was added. The resulting solution was heated under reflux for 2 hours and set aside at room temperature for 18 hours. Concentration followed by chromatographic purification on a column of silica gel with chloroform-methanol (15.1) as eluant and final crystallisation from ethanol afforded the title compound as a hemi-ethanolate (2.4 g) m.p. 161°(dec). (Found: C, 39.8; H, 5.2; N, 19.3; S, 9.2% C11H16F3N5O2S.O.5C2H5OH requires: C, 39.8; H, 5.3; N, 19.3; S, 8.9%).

reactant | 2,2,2-trifluoroethylamine | 4.0 g | FC(CN)(F)F | C2H4F3N
reactant | hydrochloride | Cl | ClH
reactant | potassium hydroxide | [OH-].[K+]
reactant | 1-nitro-2-methylsulphinyl-2-methylthio ethylene | 3.6 g | [N+](=O)([O-])C=C(SC)S(=O)C | C4H7NO3S2
reactant | 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole | 2.1 g | CC=1N=CNC1CSCCN | C7H13N3S
solvent | methanol | 45 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | 1-Nitro-2-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]-2-(2,2,2-trifluoroethylamino)ethylene | [N+](=O)([O-])C=C(NCC(F)(F)F)NCCSCC1=C(N=CN1)C | C11H16F3N5O2S
